US07235581B2
a) 1-(4-Benzyloxy-phenyl)-pyrrolidin-2-one
20.3 g (101.9 mmol) 4-benzyloxyaniline and 9.1 ml (119.2 mmol) gamma-butyro-lactone are treated with 3 ml concentrated hydrochloric acid. The mixture is heated 20 hours to 160° C., then 5.5 hours to 200° C. After cooling, the mixture is extracted with 250 ml ethyl acetate, washed with saturated aqueous sodium hydrogencarbonate and dried. Evaporation of the solvent and recrystallisation from diethyl ether yields 8.4 g (31%) of a brownish solid. MS: m/e=267 (M+).

reactant | 4-benzyloxyaniline | 101.9 mmol, 20.3 g | C(C1=CC=CC=C1)OC1=CC=C(N)C=C1 | C13H13NO
reactant | gamma-butyro-lactone | 119.2 mmol, 9.1 ml | C1(CCCO1)=O | C4H6O2
reactant | hydrochloric acid | 3 ml | Cl | ClH
product | 1-(4-Benzyloxy-phenyl)-pyrrolidin-2-one | 8.4 g, 31% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(CCC1)=O | C17H17NO2
